US04894386
f. E-4-[1-Allyl-5-[2-(propylcarbamoyl)-1-propenyl]-indol-3-ylmethyl]-3-methoxybenzoic acid
A solution of lithium hydroxide monohydrate (0.16 g) in water (2 ml) was added to a stirred solution of methyl E-4[1-allyl-5-[2-(propylcarbamoyl)- 1-propenyl]indol-3-ylmethyl]-3-methoxybenzoate (0.34 g) in methanol (5 ml), and the mixture was stirred for 18 hr under an atmosphere of nitrogen. The solution was concentrated to remove methanol, acidified with 1M hydrochloric acid (30 ml), diluted with water (30 ml), and the precipitate which formed (0.31 g) was isolated by filtration and dried. The product was dissolved in methanol (2 ml) and water (2 ml), and triethylamine (0.1 ml) was added. The salt that formed was purified by reverse-phase flash chromatography on octadecylsilyl (ODS, J. T. Baker) 40 micron packing material (40 g), eluting with 1:1 methanol:water. The fraction containing the purified salt was evaporated and acidified with 1M hydrochloric acid, extracted with methylene chloride (3×50 ml), and the organic phase washed with 1M hydrochloric acid and brine, and dried (MgSO4). The solvent was evaporated to give the title compound (0.29 g, 88%) as a solid glass, mp 84°-90°.

reactant | lithium hydroxide monohydrate | 0.16 g | O.[OH-].[Li+]
reactant | methyl E-4[1-allyl-5-[2-(propylcarbamoyl)- 1-propenyl]indol-3-ylmethyl]-3-methoxybenzoate | 0.34 g | C(C=C)N1C=C(C2=CC(=CC=C12)\C=C(/C)\C(NCCC)=O)CC1=C(C=C(C(=O)OC)C=C1)OC | C28H32N2O4
solvent | water | 2 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | E-4-[1-Allyl-5-[2-(propylcarbamoyl)-1-propenyl]-indol-3-ylmethyl]-3-methoxybenzoic acid | 0.29 g, 88% | C(C=C)N1C=C(C2=CC(=CC=C12)\C=C(/C)\C(NCCC)=O)CC1=C(C=C(C(=O)O)C=C1)OC | C27H30N2O4
